US07479561B2
A mixture of 4-(2,4-dichloro-5-methoxyanilino)-7-iodo-6-methoxy-3-quinolinecarbonitrile (3.5 g, 7.00 mmol), tributyl [5-(diethoxymethyl)-3-furanyl]stannane (generated from reaction of 4-bromo-2-(diethoxymethyl)-furan [ref. Chiarello, J, Joullie, M. M., Tetrahedron, 44(1), 41-48 (1988)] with tributyl tin chloride in the presence of n-BuLi) (5.76 g, 12.55 mmol), and dichlorobis(triphenylphosphine)pallidium (II) (100 mg) in 80 mL of dioxane is heated at reflux for 5 hours. Additional dichlorobis(triphenylphosphine)pallidium (II) (100 mg) is added and the reaction mixture is heated at reflux overnight. The reaction mixture is partitioned between ethyl acetate and water. The insoluble material is collected by filtration to provide 1.09 g of 4-[(2,4-dichloro-5-methoxyphenyl)amino]-7-[5-(diethoxymethyl)-3-furyl]-6-methoxy-3-quinolinecarbonitrile as a pale green solid; 1H NMR (DMSO-d6) δ 1.18 (t, J=7 Hz, 6H), 3.63 (q, J=7 Hz, 4H), 3.87 (s, 3H), 4.07 (s, 3H), 5.60 (s, 1H), 7.13 (s, 1H), 7.37 (s, 1H), 7.76 (s, 1H), 7.95 (s, 1H), 8.15 (s, 1H), 8.35 (s, 1H), 8.45 (s, 1H), 9.84 (s, 1H); MS 542.1, 544.1 (M+H)+.

reactant | 4-(2,4-dichloro-5-methoxyanilino)-7-iodo-6-methoxy-3-quinolinecarbonitrile | 7.00 mmol, 3.5 g | ClC1=C(NC2=C(C=NC3=CC(=C(C=C23)OC)I)C#N)C=C(C(=C1)Cl)OC | C18H12Cl2IN3O2
reactant | tributyl [5-(diethoxymethyl)-3-furanyl]stannane | C(CCC)[Sn](C1=COC(=C1)C(OCC)OCC)(CCCC)CCCC
reactant | 4-bromo-2-(diethoxymethyl)-furan | BrC=1C=C(OC1)C(OCC)OCC | C9H13BrO3
reactant | tributyl tin chloride | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | n-BuLi | [Li]CCCC
solvent | dioxane | 80 mL | O1CCOCC1 | C4H8O2
product | 4-[(2,4-dichloro-5-methoxyphenyl)amino]-7-[5-(diethoxymethyl)-3-furyl]-6-methoxy-3-quinolinecarbonitrile | 1.09 g | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C(C=NC2=CC(=C(C=C12)OC)C1=COC(=C1)C(OCC)OCC)C#N | C27H25Cl2N3O5
